US04831151
2.33 g (10 mmol) of p-chlorophenacyl bromide are added to a solution of 1.99 g (10 mmol) of 1-(benzylidene)amino-2-ethylimidazole in 30 ml of ethylene chloride. After stirring at 60° for 2 hours the product is filtered off and washed with ether. There is obtained 1-(benzylideneamino)-3-(p-chlorophenacyl)-2-ethylimidazolium bromide of melting point 236°-237°.

reactant | p-chlorophenacyl bromide | 10 mmol, 2.33 g | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
reactant | 1-(benzylidene)amino-2-ethylimidazole | 10 mmol, 1.99 g | C(C1=CC=CC=C1)=NN1C(=NC=C1)CC | C12H13N3
solvent | ethylene chloride | 30 ml | C(CCl)Cl | C2H4Cl2
product | 1-(benzylideneamino)-3-(p-chlorophenacyl)-2-ethylimidazolium bromide | [Br-].C(C1=CC=CC=C1)=N[N+]1=C(N(C=C1)CC(=O)C1=CC=C(C=C1)Cl)CC | InChI=1S/C20H19ClN3O.BrH/c1-2-20-23(15-19(25)17-8-10-18(21)11-9-17)12-13-24(20)22-14-16-6-4-3-5-7-16;/h3-14H,2,15H2,1H3;1H/q+1;/p-1
